US08198271B2
N-(4-Aminothiophen-3-yl)-5-[3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-(2-dimethylaminoethyl)ureidomethyl]pyridine-2-carboxylic acid amide (Compound No. 1-1)
4.0 M Hydrogen chloride-ethyl acetate solution (5.0 mL) was added to a solution of N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-[3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-(2-dimethylaminoethyl)ureidomethyl]pyridine-2-carboxylic acid amide (Reference Compound No. 6-4, 60 mg, 0.10 mmol) in a mixed solvent of ethyl acetate (2.0 mL)-methanol (3.0 mL), and then the reaction mixture was stirred at room temperature for 2 hours. Chloroform (0.10 L) and saturated aqueous sodium hydrogen carbonate solution (0.15 L) were added to a reaction solution, and then the whole was partitioned. The organic layer was washed with brine (0.10 L). The organic layer was dried over anhydrous magnesium sulfate and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography (chloroform-methanol) to give 38 mg of the title compound as an orange amorphous product. (Yield 77%)

reactant | Hydrogen chloride-ethyl acetate | 4.0 M, 5.0 mL | C(C)(=O)OCC.Cl
reactant | N-(4-t-butoxycarbonylaminothiophen-3-yl)-5-[3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-(2-dimethylaminoethyl)ureidomethyl]pyridine-2-carboxylic acid amide | 0.10 mmol, 60 mg | C(C)(C)(C)OC(=O)NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CN(C(=O)NC1=CC2=C(OCCO2)C=C1)CCN(C)C | C29H36N6O6S
reactant | ethyl acetate | 2.0 mL | C(C)(=O)OCC | C4H8O2
reactant | sodium hydrogen carbonate | 0.15 L | C(O)([O-])=O.[Na+]
solvent | Chloroform | 0.10 L | C(Cl)(Cl)Cl | CHCl3
solvent | methanol | 3.0 mL | CO | CH4O
product | N-(4-Aminothiophen-3-yl)-5-[3-(2,3-dihydrobenzo[1,4]dioxin-6-yl)-1-(2-dimethylaminoethyl)ureidomethyl]pyridine-2-carboxylic acid amide | 38 mg, Yield 77% | NC=1C(=CSC1)NC(=O)C1=NC=C(C=C1)CN(C(=O)NC1=CC2=C(OCCO2)C=C1)CCN(C)C | C24H28N6O4S
